US05389641
10a) Methyl 2-nitro-3-(2-oxo-n-propyl)benzoate
A solution of methyl 3-methyl-2-nitrobenzoate (1.5 g) and N,N-dimethylacetamide dimethyl acetal (3 ml) in dimethylacetamide (5 ml) was heated at 140° C. for 3 hours. After evaporation of the solvent, the resulting brown syrup was dissolved in ethyl acetate. The solution was washed with water, dried and concentrated to dryness. The residue was purified by column chromatography on silica gel to give a pale brown syrup (0.42 g, 23%).

reactant | methyl 3-methyl-2-nitrobenzoate | 1.5 g | CC=1C(=C(C(=O)OC)C=CC1)[N+](=O)[O-] | C9H9NO4
reactant | N,N-dimethylacetamide dimethyl acetal | 3 ml | COC(C)(N(C)C)OC | C6H15NO2
solvent | dimethylacetamide | 5 ml | CC(=O)N(C)C | C4H9NO
product | Methyl 2-nitro-3-(2-oxo-n-propyl)benzoate | 0.42 g, 23% | [N+](=O)([O-])C1=C(C(=O)OC)C=CC=C1CC(C)=O | C11H11NO5
